US05001275
Synthesis of 3-[(2,2,3,3,4,4,4-heptafluorobutoxy)methyl]aniline (Compound No. 26)
180 g (0.54 mol) of 1-(2,2,3,3,4,4,4-heptafluorobutoxy)methyl-3-nitrobenzene (Compound No. 11) obtained in Example 2 was dissolved in 500 ml of ethanol, and the mixture was refluxed for 30 minuted after adding 7.9 g of FeCl3.6H2O and 12.5 g of activated carbon thereto. While the mixture was being stirred, 100 g (2.00 mol) of hydrazine hydrate was added dropwise thereto so as not to cause violent foaming. The mixture was refluxed for 2 hours after the completion of the dropping, thereby completing the reaction. After the reaction mixture was left to cool, the reaction mixture was filtered through a Celite layer and washed with ethanol. The filtrate was concentrated and dissolved in 500 ml of benzene. The solution was successively washed with water and saturated saline solution and was dried by anhydrous sodium sulfate.

reactant | 1-(2,2,3,3,4,4,4-heptafluorobutoxy)methyl-3-nitrobenzene | 0.54 mol, 180 g | FC(COCC1=CC(=CC=C1)[N+](=O)[O-])(C(C(F)(F)F)(F)F)F | C11H8F7NO3
reactant | hydrazine hydrate | 2.00 mol, 100 g | O.NN
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-[(2,2,3,3,4,4,4-heptafluorobutoxy)methyl]aniline | FC(COCC=1C=C(N)C=CC1)(C(C(F)(F)F)(F)F)F | C11H10F7NO
